US08710049B2
To a round bottom flask was added (1R,2R)—N1-(1-benzylpiperidin-3-yl)cyclohexane-1,2-diamine (3.23 g, 8.05 mmol), THF (30 mL), isocyanatobenzene (0.958 g, 8.05 mmol) and Et3N (5.61 mL, 40.2 mmol). The reaction was stirred at rt for 2 hrs. After this time, the reaction mixture was concentrated. The residue was diluted with EtOAc (100 ml). The resulting solution was washed with water (50 ml) and saturated aqueous NaCl (50 ml). The organic layer was dried over MgSO4, filtered and concentrated. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with 5% MeOH/CH2Cl2 with NH3) to give the product, 1-((1R,2R)-2-(1-benzylpiperidin-3-ylamino)cyclohexyl)-3-phenylurea (1.4 g, 3.44 mmol, 42.8% yield), as a white solid. Anal. Calcd. for C25H32N4O m/z 407, found: 408.2 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 7.41-7.15 (m, 9H), 6.97 (q, J=7.15 Hz, 1H), 4.51-4.27 (m, 1H), 3.58-3.34 (m, 2H), 3.23-3.08 (m, 1H), 2.96-2.80 (m, 1H), 2.66 (br. s., 1H), 2.40 (br. s., 1H), 2.29-2.11 (m, 2H), 2.11-1.92 (m, 2H), 1.77-1.57 (m, 5H), 1.57-1.42 (m, 1H), 1.31 (d, J=3.85 Hz, 1H), 1.30-1.05 (m, 4H).

reactant | (1R,2R)—N1-(1-benzylpiperidin-3-yl)cyclohexane-1,2-diamine | 8.05 mmol, 3.23 g | C(C1=CC=CC=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)N | C18H29N3
reactant | isocyanatobenzene | 8.05 mmol, 0.958 g | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | Et3N | 40.2 mmol, 5.61 mL | CCN(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-((1R,2R)-2-(1-benzylpiperidin-3-ylamino)cyclohexyl)-3-phenylurea | 3.44 mmol, 1.4 g, 42.8% yield | C(C1=CC=CC=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)NC(=O)NC1=CC=CC=C1 | C25H34N4O
